US06362177B1
A solution of 4-(aminomethyl)-1-(tert-butoxycarbonyl)piperidine (5.72 g) in CH2Cl2 (150 mL) was treated with Et3N (3.51 g), N-(9-fluorenylmethyloxycarbonyl)glycine (7.93 g, 26.7 mmol), EDCI (3.80 g) and HOBt (4.33 g). After the reaction mixture was stirred at room temperature for 5 h, the mixture was washed with water (100 mL×3) and brine (100 mL×2), dried over anhydrous sodium sulfate, filtered, and concentrated. Recrystallization from CH3CN/CH3OH (150 mL/1 mL) at 0° C. afforded 1-(tert-Butoxycarbonyl)-4-[{N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]piperidine (5.75 g, 44%) as pale yellow crystals.

reactant | 4-(aminomethyl)-1-(tert-butoxycarbonyl)piperidine | 5.72 g | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | N-(9-fluorenylmethyloxycarbonyl)glycine | 26.7 mmol, 7.93 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)O | C17H15NO4
reactant | EDCI | 3.80 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 4.33 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 3.51 g | CCN(CC)CC | C6H15N
product | 1-(tert-Butoxycarbonyl)-4-[{N-(9-fluorenylmethyloxycarbonyl)glycyl}aminomethyl]piperidine | 5.75 g, 44% | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(CNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C28H35N3O5
